US06252084B1
A mixture of 5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester (10.8 g, 32 mmol) and 6.3 g (35 mmol) of N-bromosuccinimide in 250 mL of carbon tetrachloride was stirred for 1.5 hours, washed with Na2S2O3 solution, water, brine, and dried (Na2SO4). After concentrating at reduced pressure, the residue was chromatographed on silica gel and eluted with a gradient, 25% ether/hexane→40% ether/hexane, to give 5.5 g (43% yield) of 2-bromo-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester.

reactant | 5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester | 32 mmol, 10.8 g | C(C)OC(CC1=CN(C2=CC=C(C=C12)OC)CC1=CC=CC=C1)=O | C20H21NO3
reactant | N-bromosuccinimide | 35 mmol, 6.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid ethyl ester | 5.5 g, 43% yield | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=CC=CC=C1)Br)=O | C20H20BrNO3
